* 51 stage Ring-Osc. BSIM3, transient noise short
* will need 45 min on a i7 860 with 4 threads

* closes the loop between inverters xinv1 and xinv5
vin in out dc 0.5 pulse 0.5 0 0.1n 5n 1 1 1

vdd dd 0 dc 0 pulse 0 2.2 0 1n 1 1 1

vss ss 0 dc 0
ve  sub  0 dc 0

vpe well 0 2.2

* noisy inverters
xiinv2 dd ss sub well out25 out50 inv253
xiinv1 dd ss sub well in out25 inv253

*very noisy inverter
xiinv5 dd ss sub well out50 out inv1_2
*output amplifier
xiinv11 dd ss sub well out25 bufout inv1
cout  bufout ss 0.2pF

.option itl1=500 gmin=1e-15 itl4=10  noacct

* .dc vdd 0 2 0.01
*.tran 0.01n 5n

.save in bufout v(t1)

.include modelcard.nmos
.include modelcard.pmos

.include noilib-demo.h

.control
unset ngdebug
* first run
save bufout  ; needed for restricting memory usage
rusage
tran 8p 5n
rusage
plot bufout ; xlimit 90n 95n
linearize
fft bufout
* next run
reset
* save bufout
alter @v.xiinv5.vn1[trnoise] = [ 0 0 0 0 ] ; no noise
tran 8p 5n
rusage
plot bufout ; xlimit 90n 95n
linearize
fft bufout
plot mag(bufout) mag(sp2.bufout) xlimit 0 2G ylimit 1e-11 0.1 ylog
.endc


.end
